### PR TITLE
[Merged by Bors] - fix: make List.rec and Nat.rec computable

### PR DESCRIPTION
**Pull request by eric-wieser**
This works around https://github.com/leanprover/lean4/issues/2049. By manually adding compiler support for these recursors, we make a large number of porting notes redundant.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Init/Data/Nat/Basic.lean [hunk 1]
```diff
@@ -8,6 +8,25 @@ import Mathlib.Init.Data.Nat.Notation
 
 namespace Nat
 
+
+section recursor_workarounds
+
+/-- A computable version of `List.rec`. Workaround until Lean has native support for this. -/
```
Comment (sgouezel) [inline Mathlib/Init/Data/Nat/Basic.lean:14]:
```suggestion
/-- A computable version of `Nat.rec`. Workaround until Lean has native support for this. -/
```

File: Mathlib/Data/List/Defs.lean [hunk 2]
```diff
@@ -32,6 +32,32 @@ namespace List
...
+@[csimp]
+lemma rec_eq_recC : @List.rec = @List.recC := by
+  ext α motive nil cons l
+  induction l with
+  | nil => rfl
+  | cons x xs ih =>
+    rw [List.recC, ←ih]
+
+/-- A computable version of `List._sizeOf_inst`. -/
+def List._sizeOf_instC.{u} (α : Type u) [SizeOf α] : SizeOf (List α) where
```
Comment (eric-wieser) [inline Mathlib/Data/List/Defs.lean:52]:
```suggestion
def _sizeOf_instC.{u} (α : Type u) [SizeOf α] : SizeOf (List α) where
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
